US08420629B2
Step 4. 4-{1-[1-(ethylsulfonyl)-3-(fluoromethyl)azetidin-3-yl]-1H-pyrazol-4-yl}-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine
tert-Butyl 3-(fluoromethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate (0.120 g, 0.239 mmol) was treated with 4.00 M of hydrogen chloride in 1,4-dioxane (1.0 mL, 4.0 mmol) at rt for 1 h, then evaporated to dryness under reduced pressured. LCMS (M+H) 403.4. To the resultant crude HCl salt in acetonitrile (4 mL, 80 mmol) was added triethylamine (0.0998 mL, 0.716 mmol) followed by ethanesulfonyl chloride (0.0317 mL, 0.334 mmol). The mixture was stirred at rt for 30 min. After quenching with aq. sodium bicarbonate, the mixture was extracted with dichloromethane. The combined organic layers were washed with water, brine and dried over sodium sulfate, evaporated to dry. The residue was used directly in next step. LCMS calculated for C21H32FN6O3SSi(M+H)+: m/z=495.2. Found: 495.4.

reactant | tert-Butyl 3-(fluoromethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate | 0.239 mmol, 0.120 g | FCC1(CN(C1)C(=O)OC(C)(C)C)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C24H35FN6O3Si
reactant | hydrogen chloride | 4.00 M | Cl | ClH
reactant | 1,4-dioxane | 4.0 mmol, 1.0 mL | O1CCOCC1 | C4H8O2
reactant | acetonitrile | 80 mmol, 4 mL | C(C)#N | C2H3N
reactant | triethylamine | 0.716 mmol, 0.0998 mL | C(C)N(CC)CC | C6H15N
reactant | ethanesulfonyl chloride | 0.334 mmol, 0.0317 mL | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | 4-{1-[1-(ethylsulfonyl)-3-(fluoromethyl)azetidin-3-yl]-1H-pyrazol-4-yl}-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine | C(C)S(=O)(=O)N1CC(C1)(CF)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C21H31FN6O3SSi
